US08835472B2
N-{2-[4-(3,4-Dimethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide
To 0.40 g (1.32 mmol) N-[2-(4-iodo-phenyl)-1-methyl-ethyl]-acetamide (I52.1) and 0.21 g (1.32 mmol) 3,4-dimethoxyphenyl acetylene in 5 mL THF are added 0.10 g (0.13 mmol) bis-(triphenylphosphin)-palladium(II)-chlorid, 26.0 mg (0.14 mmol) CuI and 0.56 g (1.72 mmol) Cs2CO3. The mixture is stirred in a sealed tube at r.t. over night. The reaction mixture is poured onto sat. aq. NaHCO3 solution and extracted with EtOAc (2×). The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by HPLC (ACN/MeOH/TFA).

reactant | N-[2-(4-iodo-phenyl)-1-methyl-ethyl]-acetamide | 1.32 mmol, 0.40 g | IC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14INO
reactant | 3,4-dimethoxyphenyl acetylene | 1.32 mmol, 0.21 g | COC=1C=C(C=CC1OC)C#C | C10H10O2
reactant | Cs2CO3 | 1.72 mmol, 0.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | bis-(triphenylphosphin)-palladium(II)-chlorid | 0.13 mmol, 0.10 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | CuI | 0.14 mmol, 26.0 mg | [Cu]I
product | N-{2-[4-(3,4-Dimethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-acetamide | COC=1C=C(C=CC1OC)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C21H23NO3
